US08426447B2
To a solution of 7-bromo-2,3-difluoro-9H-xanthen-9-one (3.1 g, 9.97 mmol) and 2,2,2-trifluoroethanol (1.445 mL, 19.93 mmol) in DMF (33 mL) at 0° C. was added sodium hydride (0.598 g, 14.95 mmol) slowly in portions. After addition, the mixture was stirred at RT for overnight. Then, H2O (100 mL) was added slowly and the mixture was extracted with EtOAc (1×100 mL). The organic layer was collected, dried over MgSO4, and concentrated. The residue was then washed with hexane (1×100 mL) to give 2.76 g of 7-bromo-2-fluoro-3-(2,2,2-trifluoroethoxy)-9H-xanthen-9-one as a light yellow solid. MS (ESI, positive ion) m/z: 390.9, 392.9 (M+1).

reactant | 7-bromo-2,3-difluoro-9H-xanthen-9-one | 9.97 mmol, 3.1 g | BrC1=CC=C2OC=3C=C(C(=CC3C(C2=C1)=O)F)F | C13H5BrF2O2
reactant | 2,2,2-trifluoroethanol | 19.93 mmol, 1.445 mL | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 14.95 mmol, 0.598 g | [H-].[Na+]
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
product | 7-bromo-2-fluoro-3-(2,2,2-trifluoroethoxy)-9H-xanthen-9-one | 2.76 g | BrC1=CC=C2OC=3C=C(C(=CC3C(C2=C1)=O)F)OCC(F)(F)F | C15H7BrF4O3
